US04021539
N-(3-octylamino-propyl)-glucamine
The product was made from D-glucose and 3-octylamino-propylamine comparable as in Example A.

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | 3-octylamino-propylamine | C(CCCCCCC)NCCCN | C11H26N2
product | N-(3-octylamino-propyl)-glucamine | C(CCCCCCC)NCCCNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C17H38N2O5
